US06306840B1
A solution of t-butyl 3-methoxy-4-phenylureidophenylacetate (0.108 g, 0.303 mmol) in trifluoroacetic acid (5.0 mL) was stirred for 30 min. The reaction was concentrated and the residue coevaporated with methylene chloride (2×) then ether to afford 3-methoxy-4-phenylureidophenylacetic acid (0.090 g, 99%) as a white foam: 1H NMR (CD3SOCD3, 300 MHz, ppm) 9.28 (s,1H), 8.18 (s, 1H), 8.02 (d, 7.5 Hz, 1H), 7.58-7.15 (m, 5H), 6.91 (bm, 2H), 6.77 (d, 7.5 Hz, 1H), 3.85 (s, 3H), 3.49 (s, 2H).

reactant | t-butyl 3-methoxy-4-phenylureidophenylacetate | 0.303 mmol, 0.108 g | COC=1C=C(C=CC1NC(=O)NC1=CC=CC=C1)CC(=O)OC(C)(C)C | C20H24N2O4
solvent | trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-methoxy-4-phenylureidophenylacetic acid | 0.090 g, 99% | COC=1C=C(C=CC1NC(=O)NC1=CC=CC=C1)CC(=O)O | C16H16N2O4
